US09145414B2
Diisopropylethylamine (0.10 ml) was added to a solution of ethyl 5-chloro-3-(methylthio)-1,2,4-triazine-6-carboxylate (70 mg) and benzo[b]thiophen-4-amine (70 mg) in THF (1 ml), and the reaction solution was stirred at room temperature for 35 minutes. The solvent was evaporated under vacuum, and then the resultant residue was purified by column chromatography on silica gel (developing solvent:hexane/ethyl acetate) to obtain ethyl 5-(benzo[b]thiophen-4-ylamino)-3-(methylthio)-1,2,4-triazine-6-carboxylate as a white solid.

reactant | Diisopropylethylamine | 0.10 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | ethyl 5-chloro-3-(methylthio)-1,2,4-triazine-6-carboxylate | 70 mg | ClC=1N=C(N=NC1C(=O)OCC)SC | C7H8ClN3O2S
reactant | benzo[b]thiophen-4-amine | 70 mg | S1C2=C(C=C1)C(=CC=C2)N | C8H7NS
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | ethyl 5-(benzo[b]thiophen-4-ylamino)-3-(methylthio)-1,2,4-triazine-6-carboxylate | S1C2=C(C=C1)C(=CC=C2)NC=2N=C(N=NC2C(=O)OCC)SC | C15H14N4O2S2
